US06130229
4-(8-Chloro-6,11-dihydro-6-methyl-5H-pyrido[3,2-c][1]benzazepin-11-yl)-N-cyano-N'-(4-pyridinylmethyl)-1-piperazine-carboximidamide
Methyl 4-(8-chloro-6,11-dihydro-6-methyl-5H-pyrido[3,2-c][1]benzazepin-11-yl)-N-cyano-1-piperazinecarboximidothioate (105 mg) and 4-aminomethyl-pyridine (0.45 ml) were heated at 80° C. in a sealed vial allowing escape of gases. Ice-water was then added, and the resulting tan solid was chromatographed on silica gel to afford the desired product, 107 mg; HRMS, FAB: calcd. 487.2125; found 487.2141.

reactant | Methyl 4-(8-chloro-6,11-dihydro-6-methyl-5H-pyrido[3,2-c][1]benzazepin-11-yl)-N-cyano-1-piperazinecarboximidothioate | 105 mg | ClC1=CC2=C(C(C3=C(CN2C)C=CC=N3)N3CCN(CC3)C(=NC#N)SC)C=C1 | C21H23ClN6S
reactant | 4-aminomethyl-pyridine | 0.45 ml | NCC1=CC=NC=C1 | C6H8N2
product | 4-(8-Chloro-6,11-dihydro-6-methyl-5H-pyrido[3,2-c][1]benzazepin-11-yl)-N-cyano-N'-(4-pyridinylmethyl)-1-piperazine-carboximidamide | ClC1=CC2=C(C(C3=C(CN2C)C=CC=N3)N3CCN(CC3)C(NC#N)=NCC3=CC=NC=C3)C=C1 | C26H27ClN8
